US06441017B1
Step G: 2-Bromo-1-(tert-butoxycarbonylamino)-7-(tert-butyldimethylsilyloxy)naphthalene
2-Bromo-1-(tert-butoxycarbonylamino)-7-hydroxynaphthalene, as described above in Step F, (4.80 g, 14.19 mmol), tert-butyldimethylsilyl chloride (2.8 g, 18.45 mmol) and imidazole (2.2 g, 32.64 mmol) were dissolved in DMF (25 mL) and stirred for 18 hours. The mixture was poured into H2O and extracted with Et2O (2×). The combined organic extracts were dried over Na2SO4, filtered and concentrated in vacuo. The residue was chromatographed on silica gel, eluting with CH2Cl2—50% hexanes, to yield the above-titled compound.

reactant | 2-Bromo-1-(tert-butoxycarbonylamino)-7-hydroxynaphthalene | BrC1=C(C2=CC(=CC=C2C=C1)O)NC(=O)OC(C)(C)C | C15H16BrNO3
reactant | tert-butyldimethylsilyl chloride | 14.19 mmol, 4.80 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | imidazole | 32.64 mmol, 2.2 g | N1C=NC=C1 | C3H4N2
reactant | H2O | O | H2O
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
product | 2-Bromo-1-(tert-butoxycarbonylamino)-7-(tert-butyldimethylsilyloxy)naphthalene | BrC1=C(C2=CC(=CC=C2C=C1)O[Si](C)(C)C(C)(C)C)NC(=O)OC(C)(C)C | C21H30BrNO3Si
